US08497281B2
Step 3: cis-10-hydroxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinoline-4-carboxylic acid tert-butyl ester
Di-tert-butyl dicarbonate (0.69 g) is added to a solution of cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinolin-10-ol (0.64 g) and triethylamine (0.5 mL) in dichloromethane (25 mL) at room temperature. The solution is stirred at room temperature overnight and then diluted with dichloromethane. The resulting solution is washed with 2 M aqueous citric acid and brine, dried (Na2SO4), and concentrated. The residue is treated with little methanol and the precipitate formed thereafter is separated by filtration and dried to give the title compound as a colorless solid. Yield: 0.35 g (37% of theory); LC (method 1): tR=4.20 min; Mass spectrum (ESI+): m/z=304 [M+H]+.

reactant | Di-tert-butyl dicarbonate | 0.69 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinolin-10-ol | 0.64 g | C1CCN[C@H]2CCC3=C([C@@H]12)C(=CC=C3)O | C13H17NO
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | cis-10-hydroxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinoline-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC[C@@H]2C3=C(CC[C@H]12)C=CC=C3O | C18H25NO3
